Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
lisinopril / aspirin / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / chocolate / cabbage / licorice / ___ sprouts
 
Attending: ___.
 
Chief Complaint:
coffee-ground emesis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ with history of a Roux-en-y bypass in ___ 
with 150lb weight loss, complicated by worsening chronic 
dysphagia to solids/liquids, malnutrition, and a gastric ulcer 
s/p Roux-en-Y bypass reversal (___), now presenting with 
epigastric pain and coffee ground emesis. Following her bypass 
reversal, she had been on a soft diet, with continued episodes 
of vomiting/regurgitation every ___ days. given these persistent 
symptoms, she underwent a EGD on ___ which showed normal 
findings down to the J-J anastomosis.  She was in her usual 
state of health until last night at 5pm when she had multiple 
episode of coffee ground emesis with assoicated epigastric and 
substernal chest pain. Her last BM was 4 days ago, but continues 
to have flatus daily. She initially presented to an OSH where a 
CT scan showed evidence of a gastric outlet obstruction. NGT 
decompression was offered but patient refused. She was 
subsequently transferred to ___ for further management. 

 
Past Medical History:
Gastric ulcer 
HTN (hypertension) 
Hypercholesteremia
Hypothyroid 
Insomnia 
Syncope 

H/O gastric bypass - Dr ___ ___
B/L rotator cuff surgery
s/p CCY
Left knee surgery
 
Social History:
___
Family History:
FAMILY HISTORY: 
Father died of MI at age ___.
Mother died one month after father.
Son died at 2mos of SIDS

 
Physical Exam:
Exam on discharge:

Vital Signs: 97.6, 119 / 71, 55, 19, 98RA
GEN: WD, WN in NAD
HEENT: NCAT, EOM grossly intact, anicteric
CV: RRR
PULM:  no respiratory distress
ABD: soft, NT, ND, no mass, no hernia, well healed surgical 
incision
EXT: WWP
NEURO: A&Ox3, no focal neurologic deficits
 
Pertinent Results:
see OMR for pertinent results

___: 
EGD:
Linear erythematous strip in lower esophagus
Previous gastro-gastric re-anastomosis after gastric bypass of 
the stomach
Ulcers in the proximal gastric body, duodenal ulcer. No blood or 
evidence of active bleeding. A nasojejunal tube was placed under 
endoscopic visualization. Otherwise normal EGD to third part of 
the duodenum.

___:
Upper GI Swallow:
IMPRESSION: 
Barium passes freely through the esophagus into the stomach, the 
new gastrogastric anastomosis, and into the duodenum without 
evidence of obstruction.
 
Brief Hospital Course:
The patient presented to an OSH with vomiting and subsequent 
development of coffee ground emesis.  Given CT scan concerning 
for gastric outlet obstruction, the patient was transferred to 
___ for further management. Upon arrival to ___, she was 
placed on bowel rest, given intravenous fluids and antacids.  
Gastroenterology was consulted given concern for ___ 
tear and need for gastrogastrostomy dilation.  

#NEURO: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with IV pain 
medication. When the patient began tolerating a PO diet, she no 
longer required pain medication. Pain was very well controlled.

#CV: The patient was intermittently hypertensive during her 
hospital stay. Her hypertension was initially controlled with IV 
hydralazine. Her home amlodipine was restarted when she began 
tolerating PO. Vital signs were routinely monitored.  

#PULMONARY: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.  

#GI/GU/FEN: Initially, the patient had an NG tube placed. On 
___, the patient had an EGD procedure, with subsequent NG tube 
removal and NJ tube placement. The EGD was notable for non 
bleeding, clear based ulcers in the stomach, with one in the 
duodenum. The patient was started on PPI BID. A stool sample was 
sent to evaluate for H. pylori, which was not detected. Serum 
gastrin level was minimally elevated. On ___, the patient had 
an upper GI swallow study that showed free passage of material. 
The NJ tube was removed. The patient was started on a full 
liquid diet which she tolerated well, and she will continue on 
this diet upon discharge. 

#ID: The patient's fever curves were closely watched for signs 
of infection, of which there were none.  

#HEME: Patient received BID SQH for DVT prophylaxis, in addition 
to encouraging early ambulation and Venodyne compression 
devices. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating diet as 
above per oral, ambulating, voiding without assistance, and pain 
was well controlled.  The patient was discharged home without 
services. The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. TRIAzolam 0.125 mg PO ONCE 
2. Polyethylene Glycol 17 g PO DAILY 
3. amLODIPine 5 mg PO DAILY 
4. Simvastatin 20 mg PO QPM 
5. melatonin 3 mg oral QHS 
6. Pantoprazole 40 mg PO Q12H 
7. Levothyroxine Sodium 100 mcg PO DAILY 
8. Vitamin D Dose is Unknown  PO DAILY 

 
Discharge Medications:
1.  Vitamin D 1000 UNIT PO DAILY  
2.  amLODIPine 5 mg PO DAILY  
3.  Levothyroxine Sodium 100 mcg PO DAILY  
4.  melatonin 3 mg oral QHS  
5.  Pantoprazole 40 mg PO Q12H  
6.  Polyethylene Glycol 17 g PO DAILY  
7.  Simvastatin 20 mg PO QPM  
8.  TRIAzolam 0.125 mg PO ONCE  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-gastric outlet obstruction
-duodenal ulcer; multiple clean-based non-bleeding ulcers 
ranging in size from 3 mm to 5 mm  in the proximal gastric body
-hypergastrinemia- for further evaluation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital for 
gastric outlet obstruction and underwent an endoscopy to 
evaluate potential points for blockage. An upper GI contrast 
study did not show any signs of obstruction or stricture . You 
were started on a full liquid diet, which you tolerated well. 
You have recovered and are now ready to be discharged to home. 
Please follow the recommendations below to ensure a speedy and 
uneventful recovery. 
 
ACTIVITY:
 
- Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
 
- You may climb stairs. 
 
- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.
 
- You may start some light exercise when you feel comfortable.
 
- Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.
 
- You may resume sexual activity unless your doctor has told you 
otherwise.
 

 
HOW YOU MAY FEEL: 
 
- You may feel weak or "washed out." You might want to nap 
often. Simple tasks may exhaust you.
 
- You may have a sore throat because of a tube that was in your 
throat during the endoscopy.
 

 
YOUR BOWELS:
 
- Constipation is a common side effect of medicine such as 
Percocet or codeine. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
 
- If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.
 
- If you get diarrhea, don't take anti-diarrhea medicines. Drink 
plenty of fluids and see if it goes away. If it does not go 
away, or is severe and you feel ill, please call your surgeon.
 

PAIN MANAGEMENT:
 
- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.
If you experience any of the following, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:
- Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.
- If you have any questions about what medicine to take or not 
to take, please call your surgeon. 

NUTRITION: 
- Please follow the full liquid diet strictly upon discharge. 
You will discuss your diet further during your follow up 
appointment with Dr. ___.

 
Followup Instructions:
___